US05872135
Step E: N-(t-Butoxycarbonylpiperidin-2(S)-ylmethyl)-N-(1-naphthylmethyl) glycine methyl ester
N-(t-Butoxycarbonyl)piperidine-2(S)-carboxaldehyde (2.19 g, 0.01 mol), (1-naphthylmethyl)glycine methyl ester hydrochloride (2.66 g, 0.01 mol) and Et3N (1.4 mL, 0.01 mol) were dissolved in 1,2-dichloroethane (50 mL) with stirring under Ar in an ice-H2O bath. Sodium triacetoxyborohydride (3.18 g, 0.015 mol) was added in one portion, the bath was removed, and the reaction mixture left to stir overnight at ambient temperature. The mixture was partitioned between EtOAc and aq satd NaHCO3 solution, the basic layer washed with EtOAc (2×50 mL), the organics combined, washed with brine, and dried (MgSO4). Filtration and concentration to dryness gave the title compound as a pale yellow oil after chromatography (SiO2, EtOAc: hexane, 1:6). 1H NMR (CDCl3) δ8.27-8.35 (m, 1H), 7.82 (d, 1H, J=8 Hz), 7.76 (d, 1H, J=8 Hz), 7.34-7.53 (m, 4H), 4.36 (d, 1H, J=13 Hz), 4.20 (d, 1H, J=13 Hz), 4.2-4.35 (m, 1H), 3.7-3.9 (m, 1H), 3.69 (s, 3H), 3.53 (d, 1H, J=17 Hz), 3.37 (d, 1H, J=17 Hz), 2.7-2.9 (m, 2H), 2.35-2.45 (m, 1H), 1.6-1.7 (m, 1H), 1.34-1.48 (m, 2H), 1.43 (s, 9H), 1.2-1.3 (m, 2H), 0.9-1.0 (m, 1H).

reactant | N-(t-Butoxycarbonyl)piperidine-2(S)-carboxaldehyde | 0.01 mol, 2.19 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C=O | C11H19NO3
reactant | (1-naphthylmethyl)glycine methyl ester hydrochloride | 0.01 mol, 2.66 g | Cl.COC(CNCC1=CC=CC2=CC=CC=C12)=O
reactant | Et3N | 0.01 mol, 1.4 mL | CCN(CC)CC | C6H15N
reactant | Sodium triacetoxyborohydride | 0.015 mol, 3.18 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
product | N-(t-Butoxycarbonylpiperidin-2(S)-ylmethyl)-N-(1-naphthylmethyl) glycine methyl ester | COC(CN(CC1=CC=CC2=CC=CC=C12)C([C@H]1NCCCC1)C(=O)OC(C)(C)C)=O | C25H34N2O4
